US07094938B1
To a solution of 2,7-dichloromethyl-3,6-di-t-butylfluorene (0.75 g, 2.0 mmol) in THF (15 ml) was added a small portion of LiAlH4 (220 mg, 5.8 mmol) under stirring and the mixture was refluxed for 4 hours. The reaction was quenched with water and NaOH and extracted with ether. The ether solution was evaporated under vacuum to give a white solid of 2,7-di-methyl-3,6-di-tert-butyl-fluorene with a yield of 85%.

reactant | 2,7-dichloromethyl-3,6-di-t-butylfluorene | 2.0 mmol, 0.75 g | ClCC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)CCl | C23H28Cl2
reactant | LiAlH4 | 5.8 mmol, 220 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2,7-di-methyl-3,6-di-tert-butyl-fluorene | yield of 85% | CC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C | C23H30
